US06756378B2
A stirred solution of methyl (S)-3-nitro-4-[2-[3-methoxy-4-[N′-(2-methylphenyl)ureido]phenylacetylamino]-1-propoxy]benzoate (310 mg, 0.56 mmol) in MeOH—THF (10 mL, 1:1, v/v) was hydrogenated over 5% Pd—C (50 mg, 16 wt %) overnight. The mixture was filtered to remove the catalyst and the filtrate was evaporated to give methyl (S)-3-amino-4-[2-[3-methoxy-4-[N′-(2-methylphenyl)ureido]phenylacetylamino]-1-propoxy]benzoate (240 mg) as a gum.

reactant | methyl (S)-3-nitro-4-[2-[3-methoxy-4-[N′-(2-methylphenyl)ureido]phenylacetylamino]-1-propoxy]benzoate | 0.56 mmol, 310 mg | [N+](=O)([O-])C=1C=C(C(=O)OC)C=CC1OC[C@H](C)NC(CC1=CC(=C(C=C1)NC(=O)NC1=C(C=CC=C1)C)OC)=O | C28H30N4O8
solvent | MeOH THF | CO.C1CCOC1
catalyst | Pd—C | 50 mg | [Pd] | Pd
product | methyl (S)-3-amino-4-[2-[3-methoxy-4-[N′-(2-methylphenyl)ureido]phenylacetylamino]-1-propoxy]benzoate | 240 mg | NC=1C=C(C(=O)OC)C=CC1OC[C@H](C)NC(CC1=CC(=C(C=C1)NC(=O)NC1=C(C=CC=C1)C)OC)=O | C28H32N4O6
